US05532240
The reaction and procedure were conducted in a similar manner as in Example 24 using 0.7 g of 5-acetyl-2-(2-bromoethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine and 0.61 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride to give 0.7 g of 5-acetyl-2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[ 2,3-c]pyridine as an oil, m.p. 170°-172° C. as oxalate thereof.

reactant | 5-acetyl-2-(2-bromoethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 0.7 g | C(C)(=O)C1CC2=C(CN1)SC(=C2)CCBr | C11H14BrNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 0.61 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | 5-acetyl-2-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[ 2,3-c]pyridine | 0.7 g | C(C)(=O)C1CC2=C(CN1)SC(=C2)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C23H26FN3O2S
